US05877196
3-[4-(Methanesulfonylamino)phenoxy]propaneamine
A suspension of 5.5 g of N-[4-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]phenyl]methanesulfonamide in 200 ml of ethanol is treated with 1.5 ml of hydrazine hydrate and the mixture stirred and refluxed for 6 hours. A precipitate forms in 1 hour. After 6 hours, 5 ml of HCl is added and the mixture refluxed for 1 hour and allowed to stand at room temperature for 18 hours. The precipitate is collected, stirred with 50 ml of hot water and the insolubles washed with 50 ml of water. The combined water washes are evaporated in vacuo to a dry residue. The residue is dissolved in 100 ml of saturated sodium bicarbonate, treated with activated carbon, filtered and the filtrate acidified with acetic acid and concentrated in vacuo to 100 ml. The precipitate is collected, washed with 25 ml of cold water and dried to give a solid, m.p. 200° C.

reactant | N-[4-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]phenyl]methanesulfonamide | 5.5 g | O=C1N(C(C2=CC=CC=C12)=O)CCCOC1=CC=C(C=C1)NS(=O)(=O)C | C18H18N2O5S
reactant | hydrazine hydrate | 1.5 ml | O.NN
reactant | HCl | 5 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-[4-(Methanesulfonylamino)phenoxy]propaneamine | CS(=O)(=O)NC1=CC=C(OCCCN)C=C1 | C10H16N2O3S
